US08420816B2
Step A: (R)-tert-butyl 3-methyl-2-(3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoate
Sodium triacetoxyborohydride (603 mg, 2.85 mmol) and D-valine-tert-butyl ester HCl salt (597 mg, 2.85 mmol) were combined in DCM (15 mL). The reaction mixture was stirred for 20 min at room temperature and then cooled to 0° C. 4-Formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (700 mg, 2.03 mmol) was added, and the solution was stirred for 1 h. The solution was concentrated in vacuo to give a white foam, which was re-dissolved in THF (40 mL). HATU (1.16 g, 3.05 mmol) and N-methylmorpholine (339 μL, 3.05 mmol) were added, and the reaction mixture was stirred at 52° C. for 2 h. Additional HATU (580 mg, 1.53 mmol) and N-methylmorpholine (170 μL, 1.53 mmol) were added, and the reaction mixture was stirred for an additional 2 h at 52° C. The solution was subsequently cooled, diluted with EtOAc, and washed with brine. The organics were dried over MgSO4 and concentrated in vacuo. Purification by silica gel chromatography (1:2:2 EtOAc/Hexanes/DCM) gave the title compound as a yellow oil, which solidified upon sitting (840 mg, 85%). 1H NMR (500 MHz, CDCl3) δ 0.86 (d, J=7.0 Hz, 3H), 1.08 (d, J=7.0 Hz, 3H), 1.42 (s, 9H), 2.25-2.34 (m, 1H), 2.35 (s, 3H), 4.77-5.14 (m, 3H), 7.05 (d, J=5.0 Hz, 1H), 7.28 (d, J=7.5 Hz, 2H), 8.05-8.10 (m, 3H), 8.45 (d, J=5.0 Hz, 1H). [M+H] calc'd for C25H29N3O5S, 484; found, 484.

reactant | Sodium triacetoxyborohydride | 2.85 mmol, 603 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | D-valine-tert-butyl ester HCl salt | 2.85 mmol, 597 mg | Cl.C(C)(C)(C)OC([C@H](N)C(C)C)=O
reactant | 4-Formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 2.03 mmol, 700 mg | C(=O)C1=C2C(=NC=C1)N(C=C2C(=O)O)S(=O)(=O)C2=CC=C(C)C=C2 | C16H12N2O5S
reactant | HATU | 3.05 mmol, 1.16 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 3.05 mmol, 339 μL | CN1CCOCC1 | C5H11NO
reactant | HATU | 1.53 mmol, 580 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 1.53 mmol, 170 μL | CN1CCOCC1 | C5H11NO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 3-methyl-2-(3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoate | CC([C@H](C(=O)OC(C)(C)C)N1CC=2C=CN=C3C2C(C1=O)=CN3S(=O)(=O)C3=CC=C(C)C=C3)C | C25H29N3O5S
